data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:2][cH:16][cH:7][c:8]2[c:6]1[N+:24]([CH3:10])=[CH:15][C:12]2=[CH:9][c:19]1[cH:17][cH:25][cH:30][cH:26][cH:18]1.[cH:3]1[c:13]2[c:14]3[cH:4][cH:21][cH:28][cH:23][c:32]3[n:29]([CH:5]=[CH2:11])[c:31]2[cH:22][cH:27][cH:20]1>>[cH:1]1[cH:2][cH:16][cH:7][c:8]2[c:6]1[n:24]([CH3:10])[cH:15][c:12]2[CH:9]([CH2:11][CH:5]=[N+:29]1[c:31]2[c:13]([cH:3][cH:20][cH:27][cH:22]2)-[c:14]2[cH:4][cH:21][cH:28][cH:23][c:32]21)[c:19]1[cH:17][cH:25][cH:30][cH:26][cH:18]1", "epd": [["LP-/Pi+", [29], [5, 29]], ["Pi-/Sigma+", [11, 5], [11, 9]], ["Pi-/Pi+", [9, 12], [12, 15]], ["Pi-/LP+", [15, 24], [24]]]}
{"reaction_name": "Cationic ring-contraction rearrangement", "rsmi": "[CH2+:1][CH:4]1[CH2:2][CH2:5][CH2:3]1>>[CH2:1]([CH2+:3])[CH:4]1[CH2:2][CH2:5]1", "epd": [["Sigma-/Sigma+", [3, 4], [1, 3]], ["Sigma-/Sigma+", [3, 5], [4, 5]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:12]1[c:22]([CH+:36][c:23]2[cH:13][c:26]([F:30])[cH:35][c:27]([F:31])[cH:14]2)[cH:15][c:24]([F:28])[cH:34][c:25]1[F:29].[cH:1]1[c:5]([CH:3]=[C:19]2[CH:32]=[CH:10][CH:11]=[CH:33]2)[cH:2][c:9]2[c:4]3[c:8]1[CH2:20][CH2:17][CH2:7][N:16]3[CH2:6][CH2:18][CH2:21]2>>[cH:1]1[c:5](=[CH:3][C:19]2=[CH:33][CH:11]=[CH:10][CH:32]2[CH:36]([c:22]2[cH:12][c:25]([F:29])[cH:34][c:24]([F:28])[cH:15]2)[c:23]2[cH:13][c:26]([F:30])[cH:35][c:27]([F:31])[cH:14]2)[cH:2][c:9]2[c:4]3[c:8]1[CH2:20][CH2:17][CH2:7][N+:16]=3[CH2:6][CH2:18][CH2:21]2", "epd": [["LP-/Pi+", [16], [4, 16]], ["Pi-/Pi+", [8, 4], [1, 8]], ["Pi-/Pi+", [5, 1], [3, 5]], ["Pi-/Pi+", [19, 3], [33, 19]], ["Pi-/Pi+", [11, 33], [10, 11]], ["Pi-/Sigma+", [32, 10], [32, 36]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:2]1([c:8]2[c:34]([CH3:11])[cH:29][c:22]([CH3:19])[cH:32][c:37]2[CH3:14])[CH:28]=[CH:27][N:3]([c:9]2[c:35]([CH3:12])[cH:30][c:23]([CH3:20])[cH:31][c:36]2[CH3:13])[C:38]1=[CH2:25].[n:1]1[n:4][c:33]2[n:7]([cH:15][c:26]([N+:6](=[O:5])[O-:21])[cH:18][c:16]2[N+:17](=[O:10])[O-:39])[n:24]1>>[n:1]1[n:4][c:33]2[n:7]([n:24]1)[CH:15]([CH2:25][c:38]1[n+:2](-[c:8]3[c:34]([CH3:11])[cH:29][c:22]([CH3:19])[cH:32][c:37]3[CH3:14])[cH:28][cH:27][n:3]1-[c:9]1[c:35]([CH3:12])[cH:30][c:23]([CH3:20])[cH:31][c:36]1[CH3:13])[C:26](=[N+:6]([O-:5])[O-:21])[CH:18]=[C:16]2[N+:17](=[O:10])[O-:39]", "epd": [["LP-/Pi+", [2], [38, 2]], ["Pi-/Sigma+", [25, 38], [25, 15]], ["Pi-/Pi+", [15, 26], [26, 6]], ["Pi-/LP+", [6, 5], [5]]]}
{"reaction_name": "Ketal formation", "rsmi": "[C:3]([CH3:4])([CH3:5])=[O:6].[O:1]([CH3:7])[H:9].[O:2]([CH3:8])[H:10]>>[O:1]([C:3]([O:2][CH3:8])([CH3:4])[CH3:5])[CH3:7].[O:6]([H:9])[H:10]", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Sigma-/LP+", [3, 6], [6]], ["LP-/Sigma+", [6], [6, 9]], ["Sigma-/LP+", [1, 9], [1]], ["LP-/Sigma+", [2], [2, 3]], ["Pi-/LP+", [3, 6], [6]], ["LP-/Sigma+", [6], [6, 10]], ["Sigma-/LP+", [2, 10], [2]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:2]1([Cl:15])=[C:26]([Cl:12])[C:27]([Cl:19])=[C:10]([Cl:17])[C:25]([Cl:6])([Cl:7])[C:13]1=[O:16].[CH:1]1([C:4](=[O:18])[O:28][CH3:8])[CH2:9][CH2:22][CH2:20][N:24]1[C:21]1=[CH:11][CH2:3][CH2:23][CH2:14][CH2:5]1>>[CH:1]1([C:4](=[O:18])[O:28][CH3:8])[CH2:9][CH2:22][CH2:20][N+:24]1=[C:21]1[CH2:5][CH2:14][CH2:23][CH2:3][CH:11]1[Cl:6].[c:2]1([Cl:15])[c:13]([O-:16])[c:25]([Cl:7])[c:10]([Cl:17])[c:27]([Cl:19])[c:26]1[Cl:12]", "epd": [["LP-/Pi+", [24], [21, 24]], ["Pi-/Sigma+", [11, 21], [11, 6]], ["Sigma-/Pi+", [6, 25], [25, 13]], ["Pi-/LP+", [13, 16], [16]]]}
{"reaction_name": "Acid chloride formation", "rsmi": "[Cl:3][S:6]([Cl:4])=[O:8].[H:1][O:5][C:9]([CH3:2])=[O:7]>>[CH3:2][C:9]([Cl:3])=[O:7].[H:1][Cl:4].[O:5]=[S:6]=[O:8]", "epd": [["LP-/Sigma+", [5], [5, 6]], ["Sigma-/LP+", [3, 6], [3]], ["LP-/Sigma+", [3], [3, 9]], ["Pi-/LP+", [7, 9], [7]], ["LP-/Pi+", [7], [7, 9]], ["Sigma-/LP+", [5, 9], [5]], ["LP-/Pi+", [5], [5, 6]], ["Sigma-/LP+", [4, 6], [4]], ["LP-/Sigma+", [4], [1, 4]], ["Sigma-/LP+", [1, 5], [5]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:12])[C:19]([C:2]#[N:13])=[CH:5][c:27]1[cH:9][cH:14][cH:28][cH:15][cH:10]1.[CH3:3][CH:11]([CH3:4])[N+:18]1=[N:20][N:17]([CH:6]([CH3:21])[CH3:22])[C:23](=[CH2:16])[C-:7]1[C:8]([CH3:24])([CH3:25])[CH3:26]>>[C:1](=[N-:12])=[C:19]([C:2]#[N:13])[CH:5]([CH2:16][c:23]1[c:7]([C:8]([CH3:24])([CH3:25])[CH3:26])[n+:18]([CH:11]([CH3:3])[CH3:4])[n:20][n:17]1[CH:6]([CH3:21])[CH3:22])[c:27]1[cH:9][cH:14][cH:28][cH:15][cH:10]1", "epd": [["LP-/Pi+", [7], [23, 7]], ["Pi-/Sigma+", [16, 23], [16, 5]], ["Pi-/Pi+", [5, 19], [19, 1]], ["Pi-/LP+", [1, 12], [12]]]}
